US04366166
163.4 g of 1-(2-chloroethyl)-2-nitroimidazole and 200.4 g of sodium iodide were heated under reflux for 4.5 hours in 1 liter of ethyl methyl ketone. After cooling, the mixture was filtered, the solvent was evaporated off, the residue was partitioned between 2 liters of dichloromethane and 1 liter of water and the organic phase was washed twice with 1 liter of water each time and evaporated. Crystallization from 1 liter of isopropanol yielded 206 g of 1-(2-iodoethyl)-2-nitroimidazole, m.p. 79°-82° C.

reactant | 1-(2-chloroethyl)-2-nitroimidazole | 163.4 g | ClCCN1C(=NC=C1)[N+](=O)[O-] | C5H6ClN3O2
reactant | sodium iodide | 200.4 g | [I-].[Na+]
solvent | ethyl methyl ketone | 1 liter | CC(=O)CC | C4H8O
product | 1-(2-iodoethyl)-2-nitroimidazole | 206 g | ICCN1C(=NC=C1)[N+](=O)[O-] | C5H6IN3O2
